US05366982
To a mixture of 150 cc of tetrahydrofuran and 34 cc of a 3M solution of phenylmagnesium bromide in diethylether at 40° C. under an argon atmosphere, are added 15 g of 3,5-dichloroanisole and 5.5 g of bis(triphenylphosphine)nickel(II) chloride. The resultant black mixture is heated for 6 hours to 65° C. and then poured into 400 cc of a saturated aqueous solution of ammonium chloride. After extraction with ethyl acetate (3×150 cc), the combined organic extracts are washed with water, dried (MgSO4) and concentrated in vacuo. The resultant residue is flash chromatographed on silica gel (30-60 mm; eluent: 20:0.1 n-hexane/ethyl acetate) and recrystallized from 20 cc of methanol to give 3,5-diphenyl-anisole as a white solid. (m.p.=93°-94° C.)

reactant | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 3,5-dichloroanisole | 15 g | ClC=1C=C(C=C(C1)Cl)OC | C7H6Cl2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethylether | C(C)OCC | C4H10O
catalyst | bis(triphenylphosphine)nickel(II) chloride | 5.5 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3,5-diphenyl-anisole | C1(=CC=CC=C1)C=1C=C(C=C(C1)C1=CC=CC=C1)OC | C19H16O
